US07618975B2
(2-Methyl-quinazolin-4-yl)-(4-methoxy-phenyl)-amine
The title compound was prepared from 4-chloro-2-methyl-quinazoline (108 mg, 0.605 mmol) and 4-methoxy-phenylamine (89.4 mg, 0.73 mmol) by a procedure similar to Example 72b. 1H NMR (DMSO-d6): 11.28 (brs, 1H), 8.73 (d, J=8.4 Hz, 1H), 8.06 (t, J=7.5 Hz, 1H), 7.85-7.78 (m, 2H), 7.66 (d, J=9 Hz, 2H), 7.06 (d, J=8.7 Hz, 2H), 3.81 (s, 3H), 2.60 (s, 3H).

reactant | 4-chloro-2-methyl-quinazoline | 0.605 mmol, 108 mg | ClC1=NC(=NC2=CC=CC=C12)C | C9H7ClN2
reactant | 4-methoxy-phenylamine | 0.73 mmol, 89.4 mg | COC1=CC=C(C=C1)N | C7H9NO
product | (2-Methyl-quinazolin-4-yl)-(4-methoxy-phenyl)-amine | CC1=NC2=CC=CC=C2C(=N1)NC1=CC=C(C=C1)OC | C16H15N3O
